* Week 9 model-library syntax/load smoke test
* Run from the repository root so the relative include is deterministic.
.include circuits/models/w09-topology-baseline.lib

VCC VCC 0 5
VEE VEE 0 -5

* Exercise the default NPN model in a resistor-limited bias circuit.
VBN BN 0 0.7
RCN VCC CN 1k
QN CN BN 0 W09_NPN_BASE

* Exercise the default PNP model in a resistor-limited bias circuit.
VBP BP 0 4.3
RCP CP VEE 1k
QP CP BP VCC W09_PNP_BASE

* Exercise the default N-channel JFET model.
VG G 0 -1
RD VCC ND 1k
JN ND G 0 W09_NJF_BASE

* Exercise the default diode model.
RDIODE VCC DA 1k
DTEST DA 0 W09_D_BASE

.op
.end

